US09382188B2
step 1) 5-(1-(3-(((tert-butyldimethylsilyl)oxy)methyl)phenyl)but-2-yn-1-yl)-2,2-dimethyl-1,3-dioxane-4,6-dione
Under a nitrogen atmosphere, a solution (0.5 M, 12.0 mL) of 1-propynylmagnesium bromide in THF was added to a solution of 5-(3-(((tert-butyldiphenylsilyl)oxy)methyl)benzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione (1.0 g) in THF (10 mL) at 0° C., and the mixture was stirred at room temperature for 3 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution at 0° C., and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give a crude product of the title compound. This compound was used for the next step without further purification.

reactant | 1-propynylmagnesium bromide | 0.5 M, 12.0 mL | C(#CC)[Mg]Br
reactant | 5-(3-(((tert-butyldiphenylsilyl)oxy)methyl)benzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 1.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C(C=C2C(OC(OC2=O)(C)C)=O)C=CC1 | C30H32O5Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(1-(3-(((tert-butyldimethylsilyl)oxy)methyl)phenyl)but-2-yn-1-yl)-2,2-dimethyl-1,3-dioxane-4,6-dione | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1)C(C#CC)C1C(OC(OC1=O)(C)C)=O | C23H32O5Si
